US05783704
5-Methoxy-3-(2-oxopropyl)-3H-[1,3,4]thiadiazol-2-one (Compound 7.001 in Table 7)
69 g of potassium carbonate are added to a solution of 33 g of 5-methoxy-3H-[1,3,4]thiadiazol-2-one in 400 ml of dioxane and the reaction mixture is heated to 60°. Then 21 g of chloroacetone are added dropwise within a short period of time and the reaction mixture is stirred at 70° for 20 hours and then, at 20°, is filtered over Celite. The filtrate is concentrated by evaporation. The residue is stirred with diisopropyl ether and filtered with suction. 45 g of crystals of the title compound having a melting point of 66°-67° are thus obtained.

reactant | potassium carbonate | 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-methoxy-3H-[1,3,4]thiadiazol-2-one | 33 g | COC1=NNC(S1)=O | C3H4N2O2S
reactant | chloroacetone | 21 g | ClCC(C)=O | C3H5ClO
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 5-Methoxy-3-(2-oxopropyl)-3H-[1,3,4]thiadiazol-2-one | COC1=NN(C(S1)=O)CC(C)=O | C6H8N2O3S
